US08022047B2
534.3 mg (1.59 mmol) of {[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-methyl-amino}-acetic acid benzyl ester prepared in Process 1-A was dissolved in methanol (20 mL), and then 51 mg of 5% palladium-carbon was added, and this was stirred for 1 hour under hydrogen atmosphere at room temperature. Insoluble substances were removed by filtration, and the filtrate was concentrated to give 391.1 mg (100%) of {[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-methyl-amino}-acetic acid as a colorless viscous oil.

reactant | {[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-methyl-amino}-acetic acid benzyl ester | 1.59 mmol, 534.3 mg | C(C1=CC=CC=C1)OC(CN(C)CCN(C)C(=O)OC(C)(C)C)=O | C18H28N2O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium-carbon | 51 mg | [C].[Pd]
product | {[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-methyl-amino}-acetic acid | 391.1 mg, 100% | C(C)(C)(C)OC(=O)N(CCN(C)CC(=O)O)C | C11H22N2O4
